US04906621
A solution of 10 g of 1-ethoxycarbonyl-2-ethoxycarbonyl-pyrrolidine-3-acetic acid in 50 ml tetrahydrofuran is cooled to 0° and 55 ml of borane/tetrahydrofuran (1M) is added dropwise. After stirring 2 hours at 0°, 20 ml of water is added, the mixture is extracted with ethyl acetate, washed twice with water and dried over sodium sulfate. The solution is filtered, concentrated and purified by flash chromatography using ethyl acetate/hexane (1:1 to 7:3) to yield cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-ethanol.

reactant | 1-ethoxycarbonyl-2-ethoxycarbonyl-pyrrolidine-3-acetic acid | 10 g | C(C)OC(=O)N1C(C(CC1)CC(=O)O)C(=O)OCC | C12H19NO6
reactant | borane tetrahydrofuran | 1M, 55 ml | B.O1CCCC1
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | cis 1-ethoxycarbonyl-2-ethoxycarbonylpyrrolidine-3-ethanol | C(C)OC(=O)N1[C@H]([C@H](CC1)CCO)C(=O)OCC | C12H21NO5
